US05006515
Diethyl 3-(4-chlorophenyl)-2-isoxazolin-5-ylmethylphosphonate
Preparation is carried out as in Example 1 from 23.34 g of 4-chlorobenzaldoxime, 22 g of N-chlorosuccinimide, 29.5 g of diethyl allylphosphonate and 22.9 ml of triethylamine in dichloromethane and provides 52 g of oily product.

reactant | 4-chlorobenzaldoxime | 23.34 g | ClC1=CC=C(C=NO)C=C1 | C7H6ClNO
reactant | N-chlorosuccinimide | 22 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | diethyl allylphosphonate | 29.5 g | C(C=C)P(OCC)(OCC)=O | C7H15O3P
reactant | triethylamine | 22.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Diethyl 3-(4-chlorophenyl)-2-isoxazolin-5-ylmethylphosphonate | 52 g | ClC1=CC=C(C=C1)C1=NOC(C1)CP(OCC)(OCC)=O | C14H19ClNO4P
